US07157487B2
In THF (6.0 ml) was dissolved the methyl 3-chloro-4-((1-isopropyl-3-indolylcarbonyl)amino)phenylacetate obtained in the above-described (Step 3). To the resulting solution was added 0.25N NaOH (6.0 ml), followed by stirring at 50° C. for 18 hours. After cooling, the reaction mixture was distilled under reduced pressure to remove the solvent. The resulting residue was acidified with 1N HCl (2.0 ml). The crystals thus precipitated were collected by filtration under reduced pressure, washed with water and dried under reduced pressure to give 3-chloro-4-((1-isopropyl-3-indolylcarbonyl)amino)phenylacetic acid (246.2 mg, 93%) as a brown amorphous substance.

reactant | NaOH | 0.25N, 6.0 ml | [OH-].[Na+]
reactant | methyl 3-chloro-4-((1-isopropyl-3-indolylcarbonyl)amino)phenylacetate | ClC=1C=C(C=CC1NC(=O)C1=CN(C2=CC=CC=C12)C(C)C)CC(=O)OC | C21H21ClN2O3
solvent | THF | 6.0 ml | C1CCOC1 | C4H8O
product | 3-chloro-4-((1-isopropyl-3-indolylcarbonyl)amino)phenylacetic acid | 246.2 mg, 93% | ClC=1C=C(C=CC1NC(=O)C1=CN(C2=CC=CC=C12)C(C)C)CC(=O)O | C20H19ClN2O3
